US07691882B2
4-(5-Chloro-furan-2-ylmethyl)-benzylamine
To a mixture of lithium aluminum hydride (3.3 g, 69 mmol) and tetrahydrofuran (100 mL) was added aluminum chloride (13 g, 96 mmol) at 0° C., which was stirred for 1 hour at room temperature. A mixture of 4-((5-chloro-furan-2-yl)-hydroxy-methyl)-benzonitrile (3.2 g) described in Manufacturing Example 62-1-1 and tetrahydrofuran was added dropwise into the reaction mixture, and stirred for 1 hour at room temperature. A 28% aqueous ammonia solution was added dropwise into the reaction mixture at 0° C. to quench the excess reagent. The reaction mixture was allowed to room temperature and filtered through a Celite pad. The solvent was evaporated from the filtrate under a reduced pressure, and the residue was filtered after addition of diethyl ether. The filtrate was concentrated under a reduced pressure to obtain the title compound (2.6 g) as a crude product.

reactant | lithium aluminum hydride | 69 mmol, 3.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 96 mmol, 13 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-((5-chloro-furan-2-yl)-hydroxy-methyl)-benzonitrile | 3.2 g | ClC1=CC=C(O1)C(C1=CC=C(C#N)C=C1)O | C12H8ClNO2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-(5-Chloro-furan-2-ylmethyl)-benzylamine | 2.6 g | ClC1=CC=C(O1)CC1=CC=C(CN)C=C1 | C12H12ClNO
